US07456164B2
N-ethyl-4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N-methyltetrahydro-2H-pyran-4-carboxamide
O-(1H-Benzotriazol-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (286 mg, 0.75 mmol) was added to a solution of 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid (200 mg, 0.58 mmol) in N,N-dimethylformamide (6 mL). Then triethylamine (243 μL, 1.74 mmol) was added. The mixture was stirred at room temperature for 15 minutes. Ethylmethylamine (500 μL, 5.8 mmol) was added and the reaction mixture stirred at room temperature for 18 hours. The reaction was concentrated in vacuo. The residue was partitioned between aqueous sodium bicarbonate solution (30 mL) and ethyl acetate (2×75 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.5, by volume) to provide the title compound (80 mg, 35%). 1H NMR (400 MHz, CD3OD) δ 1.06-1.25 (m, 9H), 1.90-2.02 (m, 4H), 2.08-2.12 (m, 2H), 2.25-2.28 (m, 2H), 2.58 (m, 2H), 2.87 (m, 3H), 2.95 (m, 2H), 3.09-3.12 (m, 3H), 3.71-3.76 (m, 2H), 3.82-3.86 (m, 2H), 4.53 (m, 1H), 6.98 (d, 2H), 7.20 (d, 2H).

reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate | 0.75 mmol, 286 mg | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid | 0.58 mmol, 200 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C20H29NO4
reactant | triethylamine | 1.74 mmol, 243 μL | C(C)N(CC)CC | C6H15N
reactant | Ethylmethylamine | 5.8 mmol, 500 μL | C(C)NC | C3H9N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-ethyl-4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N-methyltetrahydro-2H-pyran-4-carboxamide | 80 mg, 35% | C(C)N(C(=O)C1(CCOCC1)C1=CC=C(C=C1)OC1CCN(CC1)C(C)C)C | C23H36N2O3
